US05840732
i) Synthesis of 5-pentylidene-3-[4-(imidazo[1,2-a]pyridin-8-yloxy)butyl]thiazolidine-2,4-dione
To a solution of 1.53 g (5.0 mmol) of 3-[4-(imidazo[1,2-a]pyridin-8-yloxy)butyl]thiazolidine-2,4-dione and 0.53 ml (5.0 mmol) of 1-pentanal in 20 ml of ethanol, 0.05 ml (0.5 mmol) of piperidine was added, followed by refluxing for 3 hours. After the reaction mixture was cooled, the solvent was distilled off. The residue was dissolved in dichloromethane, washed with purified water and dried, after which the solvent was distilled off. The residue was purified by column chromatography (eluent, n-hexane/ethyl acetate=1/4). After the solvent was distilled off, the residue was recrystallized from ether to yield 1.11 g (59%, white crystal) of the desired product.

reactant | 3-[4-(imidazo[1,2-a]pyridin-8-yloxy)butyl]thiazolidine-2,4-dione | 5.0 mmol, 1.53 g | N=1C=CN2C1C(=CC=C2)OCCCCN2C(SCC2=O)=O | C14H15N3O3S
reactant | 1-pentanal | 5.0 mmol, 0.53 ml | C(CCCC)=O | C5H10O
reactant | piperidine | 0.5 mmol, 0.05 ml | N1CCCCC1 | C5H11N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 5-pentylidene-3-[4-(imidazo[1,2-a]pyridin-8-yloxy)butyl]thiazolidine-2,4-dione | C(CCCC)=C1C(N(C(S1)=O)CCCCOC=1C=2N(C=CC1)C=CN2)=O | C19H23N3O3S
